US09163021B2
Methyl 2-(7-fluoro-3-iodo-1H-pyrrolo[3,2-c]pyridin-1-yl)propanoate
Prepared according to the method described for Preparation 45 using 2-bromo-propionic acid methyl ester and 7-fluoro-3-iodo-pyrrolo[3,2-c]pyridine (Preparation 61). Purified using silica gel column chromatography eluting with 0-5% MeOH in DCM.

reactant | 2-bromo-propionic acid methyl ester | COC(C(C)Br)=O | C4H7BrO2
reactant | 7-fluoro-3-iodo-pyrrolo[3,2-c]pyridine | FC=1C2=C(C=NC1)C(=CN2)I | C7H4FIN2
product | Methyl 2-(7-fluoro-3-iodo-1H-pyrrolo[3,2-c]pyridin-1-yl)propanoate | FC=1C2=C(C=NC1)C(=CN2C(C(=O)OC)C)I | C11H10FIN2O2
